US08686000B2
Preparation of 1-(2,2-difluoroethyl)-3-(2-iodophenyl)-1H-[1,3]thiazolo[4,5-c][1,2]thiazin-4-ol 2,2-dioxide (compound No. I-a-14)
2.0 g (4 mmol) of methyl 4-{(2,2-difluoroethyl)[(2-iodobenzyl)sulfonyl]amino}-1,3-thiazole-5-carboxylate were dissolved in 25 ml of dimethylformamide and cooled to 0° C., and 143.3 mg (6 mmol) of sodium hydride were added. After addition, the mixture was warmed to RT and stirred for 12 h. Thereafter, the reaction mixture was poured onto 100 ml of water and brought to pH 4-5 with 2N HCl. The precipitate formed was filtered off and washed with water. This gave 1.7 g of compound I-a-14.

reactant | methyl 4-{(2,2-difluoroethyl)[(2-iodobenzyl)sulfonyl]amino}-1,3-thiazole-5-carboxylate | 4 mmol, 2.0 g | FC(CN(C=1N=CSC1C(=O)OC)S(=O)(=O)CC1=C(C=CC=C1)I)F | C14H13F2IN2O4S2
reactant | sodium hydride | 6 mmol, 143.3 mg | [H-].[Na+]
reactant | water | 100 ml | O | H2O
reactant | HCl | 2N | Cl | ClH
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-(2,2-difluoroethyl)-3-(2-iodophenyl)-1H-[1,3]thiazolo[4,5-c][1,2]thiazin-4-ol 2,2-dioxide | FC(CN1S(C(=C(C2=C1N=CS2)O)C2=C(C=CC=C2)I)(=O)=O)F | C13H9F2IN2O3S2
